US05691349
Sodium cyanide was added to a solution of phenyl 4-bromo-2-hydroxybenzoate (1.45 g) in 1-propanol (10 ml). The mixture was heated at reflux for 18 hours. The reaction mixture was cooled to ambient temperature and evaporated. The residue was partitioned between ether and water. The ether phase was separated, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel (Varian Bond Elut S1 silica) using 10% ethyl acetate in pentene as eluent to give n-propyl 4-bromo-2-hydroxybenzoate (1 g), NMR: 1.0(3H,t), 1.72(2H,m), 4.28(2H,t), 7.15(1H,m), 7.24(1H,m), 7.7(1H,d) and 10.7(1H,s).

reactant | Sodium cyanide | [C-]#N.[Na+]
reactant | phenyl 4-bromo-2-hydroxybenzoate | 1.45 g | BrC1=CC(=C(C(=O)OC2=CC=CC=C2)C=C1)O | C13H9BrO3
solvent | 1-propanol | 10 ml | C(CC)O | C3H8O
product | n-propyl 4-bromo-2-hydroxybenzoate | 1 g | BrC1=CC(=C(C(=O)OCCC)C=C1)O | C10H11BrO3
